US05811389
1.63 g (1.5 eq.) of phthalimide and 2.91 g (1.5 eq.) of triphenylphosphine were added portionwise while cooling with ice to a solution of 3.0 g (7.40 mmol) of 3,7-dimethoxy-6-[[(2-methoxyethoxy)methoxy]methyl]-10-methyl-10H-dibenzo[b,e]-[1,4]oxazine-4-methanol in 40 ml of tetrahydrofuran. Then, a solution of 2.06 g (1.6 eq.) of diethyl diazodicarboxylate in 10 ml of tetrahydrofuran was slowly added dropwise at 0° during 2 hours. The reaction mixture was stirred at 0° for 10 hours and then poured into 50 ml of water, 100 ml of hexane, 50 ml of methanol and 50 ml of ethyl acetate. The organic phase was separated, washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated. The residue was chromatographed on 200 g of silica gel with ethyl acetate/hexane (1:1), whereupon 3.61 g (93.7%) of N-[[3,7-dimethoxy-6-[[(2-methoxyethoxy)methoxy]methyl]-10-methyl-10H-dibenzo-[b,e][1,4]oxazin-1-yl]methyl]-2,3-dihydro-1H-isoindole-1,3-dione were obtained as an amorphous foam. MS: 534 (M+, 100), 160(8).

reactant | phthalimide | 1.63 g, 1.5 eq. | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 2.91 g, 1.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,7-dimethoxy-6-[[(2-methoxyethoxy)methoxy]methyl]-10-methyl-10H-dibenzo[b,e]-[1,4]oxazine-4-methanol | 7.40 mmol, 3.0 g | COC=1C=CC2=C(OC3=C(N2C)C=CC(=C3COCOCCOC)OC)C1CO | C21H27NO7
reactant | diethyl diazodicarboxylate | 2.06 g, 1.6 eq. | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | water | 50 ml | O | H2O
product | N-[[3,7-dimethoxy-6-[[(2-methoxyethoxy)methoxy]methyl]-10-methyl-10H-dibenzo-[b,e][1,4]oxazin-1-yl]methyl]-2,3-dihydro-1H-isoindole-1,3-dione | 3.61 g, 93.7% | COC=1C=C(C2=C(OC3=C(N2C)C=CC(=C3COCOCCOC)OC)C1)CN1C(C3=CC=CC=C3C1=O)=O | C29H30N2O8
